US08541411B2
Preparation of 2-methyl-4-[(methyloxy)methyl]-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazole
To the mixture of [2-methyl-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazol-4-yl]methanol, prepared as described in Example 43 (160 mg, 0.381 mmol) in N,N-Dimethylformamide (DMF) (15 mL), sodium hydride (30.5 mg, 0.763 mmol) was added in and followed by the addition of methyl iodide (0.048 mL, 0.763 mmol). The reaction was stirred at rt for 3 hours. More sodium hydride (30.5 mg, 0.763 mmol) and methyl iodide (0.048 mL, 0.763 mmol) was added in. The reaction was stirred at rt for another 2 hours then Water (70 mL) was added in. The mixture was extracted with EtOAc (100 mL). The organic phase was washed with Brine (100 mL), dried (MgSO4) and concentrated. The crude was subjected to ISCO purification (0˜2% MeOH/DCM) to give the product. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.36 (s, 3H) 2.54 (s, 3H) 3.00-3.07 (m, 4H) 3.37 (s, 3H) 3.68-3.75 (m, 4H) 4.76 (s, 2H) 5.52 (s, 2H) 6.32 (d, J=7.83 Hz, 1H) 6.88 (m, 2H) 7.25 (s, 1H) 7.60 (d, 1H). MS (ES+) m/e 434.4 [M+H]+.

reactant | [2-methyl-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazol-4-yl]methanol | CC1=NC2=C(N1CC1=C(C(=CC=C1)C(F)(F)F)C)C=C(C=C2CO)N2CCOCC2 | C22H24F3N3O2
reactant | sodium hydride | 0.763 mmol, 30.5 mg | [H-].[Na+]
reactant | methyl iodide | 0.763 mmol, 0.048 mL | CI | CH3I
reactant | sodium hydride | 0.763 mmol, 30.5 mg | [H-].[Na+]
reactant | methyl iodide | 0.763 mmol, 0.048 mL | CI | CH3I
reactant | Water | 70 mL | O | H2O
solvent | N,N-Dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 2-methyl-4-[(methyloxy)methyl]-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazole | CC1=NC2=C(N1CC1=C(C(=CC=C1)C(F)(F)F)C)C=C(C=C2COC)N2CCOCC2 | C23H26F3N3O2
